US08029919B2
a) N-Phenyl-2-(4-iodophenyl)benzimidazole
37.47 g (136 mmol) of 97% 4-iodobenzoyl chloride and 12.82 g (68.2 mmol) of 98% o-aminodiphenylamine were heated to 100° C., in the course of which a stirrable melt formed from 85-90° C. Once the gas evolution had ended (5 min), the melt solidified. The reaction mixture was kept at 100° C. for another 3 hours. After cooling, it was admixed with 100 ml of ethanol with stirring. The precipitate was filtered off with suction, washed with ethanol and stirred up again in 400 ml of ethanol. The suspension was heated to 75° C., which formed a solution which was adjusted to pH 8 with 29 ml of 25% ammonia. After cooling to 5-10° C., the precipitate was filtered off with suction, washed with cold ethanol and dried at 75° C. in a vacuum drying cabinet. 18.37 g (68% of theory) of light gray microcrystals having an m.p. of 178-181° C. were obtained.

reactant | 4-iodobenzoyl chloride | 136 mmol, 37.47 g | IC1=CC=C(C(=O)Cl)C=C1 | C7H4ClIO
reactant | o-aminodiphenylamine | 68.2 mmol, 12.82 g | C1=CC=C(C=C1)NC2=CC=CC=C2N | C12H12N2
reactant | ammonia | 29 ml | N | H3N
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | N-Phenyl-2-(4-iodophenyl)benzimidazole | C1(=CC=CC=C1)N1C(=NC2=C1C=CC=C2)C2=CC=C(C=C2)I | C19H13IN2
